US07618960B2
1-(2,6-difluoropyridin-3-yl)ethanone oxime
Hydroxylamine sulfate (13.1 g) and sodium acetate (10.9 g) were added to a solution of 1-(2,6-difluoropyridin-3-yl)ethanone (4.18 g) in aqueous THF (50%, 200 mL), and the reaction solution was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate) to obtain 2.44 g of the title compound.

reactant | Hydroxylamine sulfate | 13.1 g | S(=O)(=O)(O)O.NO
reactant | sodium acetate | 10.9 g | C(C)(=O)[O-].[Na+]
reactant | 1-(2,6-difluoropyridin-3-yl)ethanone | 4.18 g | FC1=NC(=CC=C1C(C)=O)F | C7H5F2NO
reactant | Water | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-difluoropyridin-3-yl)ethanone oxime | 2.44 g | FC1=NC(=CC=C1C(C)=NO)F | C7H6F2N2O
